* D:\Baltic_Fusebox\Fusebox_Test\R2D-Timer_2.asc
V1 VCC 0 24
V2 Sig 0 PULSE(0 5 1m 1n 1n 500u 1m 5) Rser=250
XU1 Sig 0 N001 0 PC817 Igain=2.3m
C1 VCC N001 100n
R9 VCC N001 1.5k
.tran 8m
* OP\nFinder 34.81.7.005.9024
.lib PC817.sub
.backanno
.end
